US07446204B2
N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl](phenylmethoxy)carboxamide (4.88 g, 8.68 mmol) was dissolved in ethanol (150 mL) and hydrogenated over palladium on carbon (10%, 980 mg) for 2.5 h. The reaction mixture was filtered through celite filter aid, washing with ethanol and the filtrate was concentrated in vacuo. Flash column chromatography (silica gel 60) eluting with cyclohexane:ethyl acetate (1:1 then 1:4) provided 4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenylamine (3.71 g, 100%). LCMS (method B): 2.14 min, 427.0 (M+H)+; 1H NMR (400 MHz, CD3OD) δ 7.63 (d, 2H, J=7.2 Hz), 7.41-7.33 (m, 2H), 7.27-7.23 (m, 2H), 7.15 (d, 1H, J=8.0 Hz), 7.09 (d, 2H, J=8.0 Hz), 4.36 (s, 2H), 3.61 (d, 2H, J=12.0 Hz), 3.22 (t, 3H, J=12.0 Hz), 2.42 (s, 3H), 2.15-2.02 (m, 4H).

reactant | N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl](phenylmethoxy)carboxamide | 8.68 mmol, 4.88 g | CC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)C1CCN(CC1)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)F)F)F | C33H31F3N2O3
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 980 mg | [Pd] | Pd
product | 4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenylamine | 3.71 g, 100% | CC1=C(C=C(C=C1)N)C1CCN(CC1)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)F)F)F | C25H25F3N2O
